* \\vems-pon-s027.vnet.valeo.com\users\[C-F]\ELAKHDAR\Safety  Project\Projets\eBB eFMEA\b748049\b748049 schematic efmea.sxsch
*#SIMETRIX

.PARAM V_P14V=14
.PARAM U3100_Gain={Gain*(tolGain/100,4)}
.PARAM IN=200

.PARAM Gain=50 RINT=10000
.PARAM tolGain=1.34004272108319 
.PARAM number_of_bits=12 LSB_error=5
.PARAM Leakage_current=3.5e-07 offset=-250  a=0.122100122100122
.PARAM VREF=2.5 VCC=5 
.PARAM tolVCC=1, tolVREF=1

.PARAM R3100=10 R3102=10 R3103=1000 Rshunt=0.0002
.PARAM tolR3100=2.3 tolR3102=2.3 tolR3103=2.3 tolRshunt=2.07
.PARAM C3100=1e-07 C3102=1e-07 
.PARAM tolC3100=30 tolC3102=30 



XV1 VCC 0 VDCSimetrix params: value=5 tolerance=1 pinnames: P M
XV2 VREF 0 VDCSimetrix params: value=2.5 tolerance=1 pinnames: P M
Ibias_pos VOS_offset_P 0 {-5e-6}
XH1 IN 0 Rshunt_1 0 H1TP_CCVS params: gain=1 pinnames: P N CP CN
.subckt H1TP_CCVS 1 2 3 4
H1 1 2 V1 {gain} 
V1 3 4
.ends
XC3100 R3100_1 C3100_2 CSimetrixICno params: value=100n tolerance=30 ICval=0 pinnames: 1 2
XARB1 ADC_output I_MEASURE arbsourceARB1 pinnames: adc OUT 
.subckt arbsourceARB1 adc OUT 
BOUT OUT 0 V=V(ADC)*0.122100122100122+250 
.ends
XC3102 VOUT 0 CSimetrixICno params: value=100n tolerance=30 ICval=0 pinnames: 1 2
XRshunt Rshunt_1 IN_N RSimetrix params: value=200u tolerance=2.07 pinnames: 1 2
XU1 VCC 0 VOUT ADC_output ADC_gen__integer params: N=10 LSB_error=8 Ilkg=0 Ilkg_var=0 pinnames: Vcc gnd in out
XU3100 Rint_pos_P Rf_neg_N U3100_OUT VCC 0 Op_amp_gen_ params: Vos=0 Vos_vvar=0  gain=50  gain_var=1.3400427 Headroom_pos=30m Headroom_neg=5m Headroom_pos_var=0 Headroom_neg_var=0 pinnames: IN_p IN_m OUT Vcc Vee
Rint_neg Rf_neg_N C3100_2 10k
XVOS_offset VOS_offset_P R3100_1 VDCSimetrix params: value=17.505u tolerance=1.341k pinnames: P M
V_HV V_HV_P 0 14
XR3100 R3100_1 IN_N RSimetrix params: value=10 tolerance=2.3 pinnames: 1 2
XR3102 C3100_2 Rshunt_1 RSimetrix params: value=10 tolerance=2.3 pinnames: 1 2
XR3103 U3100_OUT VOUT RSimetrix params: value=1k tolerance=2.3 pinnames: 1 2
Rf_pos1 VREF Rint_pos_P 500k
Rint_pos Rint_pos_P VOS_offset_P 10k
Ibias_neg C3100_2 0 {-5e-6}
IN V_HV_P IN_N 200
Rf_neg U3100_OUT Rf_neg_N 500k
.tran 1m
** Imported from: C:\Valeo_Spice_models\Valeo_models\Valeo_monte_carlo.lib
.SUBCKT Op_amp_gen_ in_p in_m out Vcc Vee PARAMS: Vos=0 Vos_vvar=1m gain=1e4 gain_var=0 Headroom_pos=0 Headroom_neg=0 Headroom_pos_var=0 Headroom_neg_var=0
Vos in_p in_p2 { -Vos-Vos_vvar*((1)-1) }
E_opamp out 0 value { limit( gain*(gain_var/100)*(V(in_p2,in_m)),V(Vee)+Headroom_neg*(Headroom_neg_var/100),V(Vcc)-Headroom_pos*(Headroom_pos_var/100) ) }
.ENDS

** Imported from: C:\Valeo_Spice_models\Valeo_models\Valeo_monte_carlo.lib
.SUBCKT ADC_gen__integer Vcc gnd in out PARAMS: N=10 LSB_error=8 Ilkg=0 Ilkg_var=0
E_ADC  out 0   value { floor( V(in,gnd) / ( V(Vcc,gnd)+1p ) * ((2**N)-1) + 0.5 + LSB_error*((1)-1) ) }
G_Ilkg in  gnd value { Ilkg + Ilkg_var*((1)-1) }
.ENDS

** Imported from: C:\Valeo_Spice_models\Valeo_models\Valeo_monte_carlo.lib
.SUBCKT RSimetrix  1  2 PARAMS: VALUE = 1k TOLERANCE = 5
R_disp    1  2   {Value*(TOLERANCE/100)}
.ENDS

** Imported from: C:\Valeo_Spice_models\Valeo_models\Valeo_monte_carlo.lib
.SUBCKT CSimetrixICno  1  2 PARAMS: VALUE = 1n TOLERANCE = 5 ICval = 0
C_disp    1  2   {Value*(TOLERANCE/100)}
.ENDS

** Imported from: C:\Valeo_Spice_models\Valeo_models\Valeo_monte_carlo.lib
.SUBCKT VDCSimetrix P M PARAMS: VALUE = 1 TOLERANCE = 5 
VDC_disp    P  M   {Value*(TOLERANCE/100)}
.ENDS
***********************
* Ideal current source
***********************
*

